* C:\SOE\JG_Local\Projects\Guitar_Pedal_Hacking\line_amp_kicad\line_amp.asc
V1 N001 0 AC 1
R1 N002 N001 {rin}
C1 N003 N002 {c_dcb}
R2 +3.3 N003 {r1b}
R3 N003 0 {r2b}
V2 +3.3 0 3.3
* Input: 0 - 300mV\nOutput: 0 - 3.3V\nFilter Cutoff Frequency: \nMax Source Impedance: 1MEG\n \nEngineer: J. Gier\nDate: 4/2/2022
* Guitar Pickup
.include line_amp.txt
;tran 1
.ac dec 100 1 1meg
.backanno
.end
